US05438052
N-Hydroxy-7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide and 3.4 g (12.5 mmol) of 7-aminocephalosporanic acid (3.1 g) (13.9 mmol) are suspended in 75 ml of sulpholane/dichloromethane (1:1 v/v). 7.5 ml of boron trifluoride etherate are added dropwise thereto at 0° C. and the mixture is stirred at 0° C. for 2.5 hours and at room temperature for 15 hours. 200 ml of dichloromethane are now added. After stirring for 30 minutes the mixture is suction filtered. The filter material is dissolved in 100 ml of water. The product is precipitated with saturated sodium hydrogen carbonate solution (pH~5), filtered off and washed with water, ethanol and ether. There are obtained 3.5 g of (6R,7R)-7-amino-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | N-Hydroxy-7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide | ONC(=O)C1=NN2C(N=C(C=C2S)C)=N1 | C7H7N5O2S
reactant | 7-aminocephalosporanic acid | 12.5 mmol, 3.4 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride etherate | 7.5 ml | B(F)(F)F.CCOCC
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | sulpholane dichloromethane | 75 ml | S1(=O)(=O)CCCC1.ClCCl
product | (6R,7R)-7-amino-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 3.5 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)C | C15H15N7O5S2
